* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1158.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 30
V2 N005 0 PULSE(0 3.3 0 10n 10n 5u 10u)
X§U1 N001 IN MP_01 N007 N007 N005 0 N008 N008 MP_02 N006 N004 N004 N003 N003 N002 LT1158
D1 N001 N002 BAT54
M§Q1 IN N003 N004 N004 IRF530
C1 N004 N002 .1µ
M§Q2 N006 N008 0 0 IRF530
R1 N004 N006 4m
L1 N006 OUT 50µ Rser=10m
C2 OUT 0 100µ Rser=10m
Rload OUT 0 5
C3 N007 0 .1µ
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 15m startup
.lib LT1158.sub
.backanno
.end
